US06215004B1
As a nonlimiting example using method B in FIG. 2 to obtain the (5-oxo-1,3-oxathiolan-2-yl)methyl butanoate or its 5-acetyloxy derivative is to react 1,2-dihydroxy ethane with n-butyryl chloride in triethylamine. This reaction produces 2-hydroxyethyl butanoate, which is further reacted P2O5 in dry DCM, followed by DMSO and triethylamine to produce 2-oxyethyl butanoate. The 2-oxyethyl butanoate can be converted to the 5-acetyloxy derivative of (5-oxo-1,3-oxathiolan-2-yl)methyl butanoate by the process described above, or it can be converted into (5-oxo-1,3-oxathiolan-2-yl)methyl butanoate by reacting with mercaptoacetic acid and CSA in dry DCM.

reactant | 1,2-dihydroxy ethane | OCCO | C2H6O2
reactant | n-butyryl chloride | CCCC(=O)Cl | C4H7ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-hydroxyethyl butanoate | C(CCC)(=O)OCCO | C6H12O3
